US07098215B2
Synthesis of Methyl 4-methyl-1-naphthalene Carboxylate (Compound III-2)
Commercially available 4-methyl-1-naphthalenecarboxylic acid (250.6 mg) was dissolved in methanol (7.5 ml). Hydrogen chloride gas was blown into the solution for five minutes while cooling with ice. Then, the mixture was stirred for 19 hours at room temperature and the solvent was removed by distillation. The residue was dissolved in chloroform, washed with 1 mol/l aqueous solution of sodium hydroxide, and dried over anhydrous sodium sulfate. The solvent was removed by distillation. The residue was dried under reduced pressure to obtain the target compound (269.9 mg) as colorless oil.

reactant | 4-methyl-1-naphthalenecarboxylic acid | 250.6 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)O | C12H10O2
reactant | Hydrogen chloride | Cl | ClH
reactant | methanol | 7.5 ml | CO | CH4O
product | Methyl 4-methyl-1-naphthalene Carboxylate | 269.9 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H12O2
